### PR TITLE
Golf a few proofs

### PR DESCRIPTION
**Pull request by pitmonticone**

### CODE REVIEW

File: FLT/for_mathlib/Frobenius.lean [hunk 1]
```diff
@@ -735,23 +724,22 @@ lemma pow_expand_A_B_scalar_tower_F :
...
+    ← map_pow, pow_expand_A_B_scalar_tower_F, Ideal.Quotient.algebraMap_eq, coe_evalRingHom,
+    expand_eval, map_pow]
 
 lemma quotient_F_is_product_of_quot :
     (Polynomial.map (Ideal.Quotient.mk Q) F) =
     ∏ τ : L ≃ₐ[K] L, (X - C ((Ideal.Quotient.mk Q) ((galRestrict A K L B τ) α))) := by
-  rw [← Polynomial.coe_mapRingHom]
-  erw [map_prod]
-  simp only [map_sub, coe_mapRingHom, map_X, map_C]
+  erw [← Polynomial.coe_mapRingHom, map_prod]
```
Comment (Ruben-VandeVelde) [inline FLT/for_mathlib/Frobenius.lean:734]: Please don't expand the scope of `erw`

File: FLT/for_mathlib/Frobenius.lean [hunk 2]
```diff
@@ -415,7 +415,7 @@ theorem pow_eq_expand (a : (A ⧸ P)[X]) :
   have pprime : Nat.Prime p := p_is_prime P
   have factprime : Fact (Nat.Prime p) := { out := pprime }
   rw [← q_is_p_pow_n, ← map_expand_pow_char, map_expand, FiniteField.frobenius_pow]
-  · simp only [exists_and_left, RingHom.one_def, map_id]
+  · simp [exists_and_left, RingHom.one_def, map_id]
```
Comment (Ruben-VandeVelde) [inline FLT/for_mathlib/Frobenius.lean:418]: Any particular reason to use `simp` rather than `simp only`? You'd probably want to remove the lemmas in the default simp set from the explicit list of arguments here.

File: FLT/for_mathlib/Frobenius.lean (hunk 1 above)
Comment (pitmonticone) [reply FLT/for_mathlib/Frobenius.lean:734]: Ok, reverted.

File: FLT/for_mathlib/Frobenius.lean (hunk 2 above)
Comment (kbuzzard) [reply FLT/for_mathlib/Frobenius.lean:418]: Please don't worry about these files. They are all dead code. I want to keep them for reference only. How should I indicate this? The theory of Frobenius elements needs to be developed in mathlib following the roadmap at https://leanprover.zulipchat.com/#narrow/stream/416277-FLT/topic/Outstanding.20Tasks.2C.20V4/near/449562398 .

File: FLT/for_mathlib/Frobenius.lean [hunk 3]
```diff
@@ -497,11 +493,11 @@ lemma F_invariant_under_finite_aut (σ :  L ≃ₐ[K] L)  :
   set i : (τ : L ≃ₐ[K] L) → τ ∈ Finset.univ → L ≃ₐ[K] L := fun τ _ => σ * τ
   -- needed to use `set i` instead of `have i`, in order to be able to use `i` later on, in proof
   have hi : ∀ (τ : L ≃ₐ[K] L) (hτ : τ ∈ Finset.univ), i τ hτ ∈ Finset.univ := by
-    simp only [Finset.mem_univ, forall_true_left, forall_const]
+    simp [Finset.mem_univ, forall_true_left, forall_const]
```
Comment (kbuzzard) [inline FLT/for_mathlib/Frobenius.lean:496]: The `only`s probably make the proof quicker, I think these are OK.

File: FLT/for_mathlib/IsCentralSimple.lean [hunk 4]
```diff
@@ -44,9 +44,7 @@ theorem RingCon.sum {R : Type u} [AddCommMonoid R] [Mul R] {ι : Type v} {s : Fi
       simp_rw [Finset.sum_insert hj]
       apply RingCon.add
       · exact h j (Finset.mem_insert_self j s')
-      · apply ih
-        intro i hi
-        exact h i (Finset.mem_insert_of_mem hi)
+      · exact ih fun i hi ↦ h i (Finset.mem_insert_of_mem hi)
```
Comment (kbuzzard) [inline FLT/for_mathlib/IsCentralSimple.lean:47]: This file is also out of date.

File: FLT/for_mathlib/Frobenius.lean (hunk 2 above)
Comment (pitmonticone) [reply FLT/for_mathlib/Frobenius.lean:424]: @kbuzzard Oh I see. I didn’t know that, sorry. An idea might be to add a comment at the beginning and then .gitignore it.

File: FLT/Basic/Reductions.lean [hunk 5]
```diff
@@ -361,9 +343,7 @@ It follows that there is no Frey package.
 /-- There is no Frey package. This profound result is proved using
 work of Mazur and Wiles/Ribet to rule out all possibilities for the
 $p$-torsion in the corresponding Frey curve. -/
-theorem FreyPackage.false (P : FreyPackage) : False := by
-  apply Wiles_Frey P
-  exact Mazur_Frey P
+theorem FreyPackage.false (P : FreyPackage) : False := Wiles_Frey P (Mazur_Frey P)
```
[the remark this answers is not in the document]
Comment (pitmonticone) [reply FLT/Basic/Reductions.lean:346]: I see. Done.

File: FLT/for_mathlib/IsCentralSimple.lean (hunk 4 above)
Comment (pitmonticone) [reply FLT/for_mathlib/IsCentralSimple.lean:47]: Ok, I won't touch it then.

**Comment by pitmonticone** [comment]
Thank you @kbuzzard for your review. 

I should have addressed all comments.

**Review by kbuzzard — APPROVED** [review]
Thanks a lot. I'm sorry, I don't have time for FLT right now. I'm having a busy summer but my time on this project starts on 1st October and I will be promptly responding to PRs from that point.
